US05869493
d) (R)-9-[4-(N-BOC-L-isoleucyloxy)-2-(stearoyloxymethyl)butyl]guanine
(R)-9-[4-Hydroxy-2-(stearoyloxymethyl)butyl]guanine (135 mg, 0.26 mmole) and N-BOC-L-isoleucine (180 mg, 0.78 mmole) was coevaporated with dry DMF twice and dissolved in the same solvent (3.5 ml). To the solution was added 1,3-dicyclohexylcarbodiimide (160 mg, 0.78 mmole) and 4-dimethylaminopyridine (4.8 mg, 0.039 mmole). After reaction for 18 hours, the reaction mixture was filtered through Celite and worked up in a conventional manner. The product was isolated by silica gel column chromatography, eluting at 5% MeOH in CH2Cl2. (Yield 160 mg)

reactant | (R)-9-[4-Hydroxy-2-(stearoyloxymethyl)butyl]guanine | 0.26 mmole, 135 mg | OCC[C@H](CN1C=2N=C(NC(C2N=C1)=O)N)COC(CCCCCCCCCCCCCCCCC)=O | C28H49N5O4
reactant | N-BOC-L-isoleucine | 0.78 mmole, 180 mg | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
reactant | 1,3-dicyclohexylcarbodiimide | 0.78 mmole, 160 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.039 mmole, 4.8 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-9-[4-(N-BOC-L-isoleucyloxy)-2-(stearoyloxymethyl)butyl]guanine | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)C(=O)OCC[C@H](CN1C=2N=C(NC(C2N=C1)=O)N)COC(CCCCCCCCCCCCCCCCC)=O | C39H68N6O7
